US05070103
2-bromo-4,5-methylenedioxybenzaldehyde dimethylacetal and 3-methyoxybenzaldehyde are reacted in the same manner as described in Example 1-(1), whereby 2-(3-methoxy-α-hydroxybenzyl)-4,5-methylenedioxybenzaldehyde dimethylacetal is obtained as pale yellow syrup. Yield: 79%

reactant | 2-bromo-4,5-methylenedioxybenzaldehyde dimethylacetal | COC(C1=C(C=C2C(=C1)OCO2)Br)OC | C10H11BrO4
reactant | 3-methyoxybenzaldehyde | COC=1C=C(C=O)C=CC1 | C8H8O2
product | 2-(3-methoxy-α-hydroxybenzyl)-4,5-methylenedioxybenzaldehyde dimethylacetal | Yield: 79% | COC(C1=C(C=C2C(=C1)OCO2)C(C2=CC(=CC=C2)OC)O)OC | C18H20O6
